US04237046
Nα -Benzyloxycarbonyl-Nε -t-butyloxycarbonyl-L-lysinamide (XIV)
A stream of NH3 was passed over a solution of Z-Lys(Boc)ONp (10.2 g, 2.0 mmole, Bachem) in THF (200 ml) for about 3 hr. A precipitate formed. The solvent was removed and the residue triturated and thoroughly washed with ether. The dried protected amide weighed 5.8 g (75%), m.p. 140°-142°, [α]D24 +1.9° (c 1.3. DMF): RfB, 0.54; RfG, 0.54.

reactant | NH3 | N | H3N
reactant | Z-Lys(Boc)ONp | 2.0 mmole, 10.2 g | CC(C)(C)OC(=O)NCCCC[C@@H](C(=O)OC1=CC=C(C=C1)[N+](=O)[O-])NC(=O)OCC2=CC=CC=C2 | C25H31N3O8
solvent | THF | 200 ml | C1CCOC1 | C4H8O
product | Nα -Benzyloxycarbonyl-Nε -t-butyloxycarbonyl-L-lysinamide | C(C1=CC=CC=C1)OC(=O)N[C@@H](CCCCNC(=O)OC(C)(C)C)C(=O)N | C19H29N3O5
